US08809382B2
Step3: 5-(2-Hexyl-quinolin-3-yl)-5-oxo-pentanoic acid
To the solution of 3-bromo-2-hexyl-quinoline in ether was added tert-butyl lithium at −100° C. The reaction mixture was stirred for 2 hours at −100° C. To the reaction mixture a solution of dihydro-pyran-2,6-dione in ether was added at −100° C. and stirred for 30 minutes and was allowed to warm up to RT. The stirring was continued for 3 hours. The water was added to the reaction mixture and was stirred for 20 minutes. Solvent was evaporated under vacuum and water was added to the crude mixture. It was then acidified by using dilute HCl and was extracted with ether. The product was purified by column chromatography.

reactant | 3-bromo-2-hexyl-quinoline | BrC=1C(=NC2=CC=CC=C2C1)CCCCCC | C15H18BrN
reactant | tert-butyl lithium | C(C)(C)(C)[Li]
reactant | dihydro-pyran-2,6-dione | O1C(CCCC1=O)=O | C5H6O3
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 5-(2-Hexyl-quinolin-3-yl)-5-oxo-pentanoic acid | C(CCCCC)C1=NC2=CC=CC=C2C=C1C(CCCC(=O)O)=O | C20H25NO3
